datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9]#[C:8][H:13])([C:11]([H:14])([H:15])[H:16])[C:12]([H:17])([H:18])[H:19],96.9014
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22]([C:23]([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])([H:30])([H:31])[H:32]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:23]([C:22]([H:30])([H:31])[H:32])([c:24]1[c:25]([H:34])[c:26]([H:35])[c:27]([H:36])[c:28]([H:37])[c:29]1[H:38])[H:33])[H:12])([H:10])[H:11],29.3717
[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]1=[C:6]([H:14])[H:15])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]2([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])=[C:4]([H:13])[C:5]12[C:6]([H:14])[H:15],43.0952
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18](#[C:19][C:20]([C:21]([H:24])([H:25])[H:26])[H:23])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:20]([C:19]#[C:18][H:22])([C:21]([H:24])([H:25])[H:26])[H:23])[H:8],31.9658
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])([C:16]([H:24])([H:25])[H:26])[H:20])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:20])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16]([H:24])([H:25])[H:26])[H:19])([H:17])[H:18],19.6648
[O:0][S:1].[S:2][H:3]>>[O:0]([S:1])[H:3].[S:2],125.52
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([H:15])([H:16])[H:17])[O:5][O:6][H:23])([H:10])[H:11])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:24])[H:25],85.47912
[C:0]([C:1](=[C:2]([H:6])[H:7])[H:5])([H:3])[H:4]>>[C:0]([C:1](=[C:2][H:7])[H:5])([H:3])([H:4])[H:6],238.906
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:13]([C:14]([H:17])([H:18])[H:19])([H:15])[H:16],9.6232
[N:0]([H:1])([H:2])[H:3].[O:4][O:5][H:6]>>[H:1][O:4][O:5][H:6].[N:0]([H:2])[H:3],92.048
[C:0](#[C:1][C:2]#[C:3][C:4]#[C:5][H:7])[H:6].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3][C:4]#[C:5][H:7])[C:9]([C:8]([H:11])([H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14])[H:6],13.3051
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([H:17])[H:18])[H:16])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:10]([C:9]([H:13])[H:14])([C:11](=[C:12]([H:17])[H:18])[H:16])[H:15])[H:4],43.1789
[C:0]([C:1](=[O:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11]>>[C:0]([C:1]=[O:2])([H:3])([H:4])[H:5].[H:6][C:7]([C:8](=[C:9]([H:13])[H:14])[H:12])([H:10])[H:11],30.1666
[C:13]([H:14])([H:15])[H:16].[O:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:9][C:13]([H:14])([H:15])[H:16].[O:0]([c:1]1[c:2]([H:8])[c:3][c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7],62.76
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12]>>[C:0](=[C:1][C:2]([H:6])([H:7])[H:8])([H:3])[H:4].[H:5][C:9]([C:10]([H:13])([H:14])[H:15])([H:11])[H:12],70.5004
[C:0](=[C:1]=[C:2]([C:3]([H:12])([H:13])[H:14])[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:28])([H:26])[H:27]>>[C:0](=[C:1][C:2]([C:3]([H:12])([H:13])[H:14])([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[C:22]([C:21](=[C:20]([H:26])[H:27])[H:28])([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])([H:10])[H:11],87.6548
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12](=[C:13]=[C:14]([H:16])[H:17])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[S:3][H:11])([H:4])([H:5])[H:6].[H:7][C:12](=[C:13]=[C:14]([H:16])[H:17])[H:15],33.0536
